US08580957B2
A flask was charged with phenylmethyl({4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate (for a preparation see intermediate 80) (100 mg, 0.219 mmol), sodium tert-butoxide (31.5 mg, 0.328 mmol), racemic BINAP (6.80 mg, 10.93 μmol), tris(dibenzylideneacetone)dipalladium(0) (10.01 mg, 10.93 μmol) and 2-chloro-5-fluoropyridine (0.033 mL, 0.328 mmol), then filled with toluene (2 mL) and the resulting mixture was stirred at 110° C. for 22 h then cooled to room temperature and partitioned between water (20 mL) and EtOAc (60 mL). The layers were separated and the aqueous phase was extracted with EtOAc (30 mL). The combined organic phases were washed with brine (30 mL), dried over MgSO4 and concentrated in vacuovacuo. Purification of this residue on SP4 using a 25 G silica cartridge (gradient:10 to 50% AcOEt in Hexanes) following by another purification using a 12 G silica cartridge (gradient:10 to 50% AcOEt in Hexanes) gave phenylmethyl[(4-{(2S,4R)-1-acetyl-4-[(5-fluoro-2-pyridinyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}phenyl)methyl]methylcarbamate (60 mg, 35%)

reactant | phenylmethyl({4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]phenyl}methyl)methylcarbamate | C1(=CC=CC=C1)COC(N(C)CC1=CC=C(C=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)N)=O | C28H31N3O3
reactant | sodium tert-butoxide | 0.328 mmol, 31.5 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 10.93 μmol, 6.80 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 2-chloro-5-fluoropyridine | 0.328 mmol, 0.033 mL | ClC1=NC=C(C=C1)F | C5H3ClFN
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 10.93 μmol, 10.01 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | phenylmethyl[(4-{(2S,4R)-1-acetyl-4-[(5-fluoro-2-pyridinyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}phenyl)methyl]methylcarbamate | 60 mg, 35% | C1(=CC=CC=C1)COC(N(C)CC1=CC=C(C=C1)C=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C)=O)C)NC1=NC=C(C=C1)F)=O | C33H33FN4O3
